US08202873B2
2-[4-(1-Methoxy-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane:
Stir together 1-bromo-4-(1-methoxy-ethyl)-benzene (1.39 g, 6.46 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (1.80 g, 7.11 mmol), potassium acetate (1.90 g, 19.38 mmol), and palladium acetate (87 mg, 0.39 mmol) in dry N,N-dimethylformamide (25 mL). Degas the reaction for 20 min. then heat to 85° C. for 40 hr. Cool to room temperature, add water (100 mL) and extract with DCM (3×50 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®. Purify (silica gel chromatography, eluting with 0:100 to 20:80 ethyl acetate:isohexane) to give a white powder (400 mg, 24% yield). MS (ES): 1H-NMR (400 MHz, CDCl3) δ 7.80 (d, 2H), 7.31 (d, 2H), 4.30 (q, 1H), 3.22 (s, 3H), 1.42 (d, 3H).

reactant | 1-bromo-4-(1-methoxy-ethyl)-benzene | 6.46 mmol, 1.39 g | BrC1=CC=C(C=C1)C(C)OC | C9H11BrO
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 7.11 mmol, 1.80 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 19.38 mmol, 1.90 g | C(C)(=O)[O-].[K+]
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.39 mmol, 87 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(1-Methoxy-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 400 mg, 24% yield | COC(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H23BO3
